US05587473
To a solution of tert-butyl 7-phenylacetamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide (76.1 g; 0.158 mol) in N,N-dimethylformamide (350 ml), ammonium trifluoroacetate (41.3 g; 0.316 mol) and sodium iodide (23.6 g; 0.158 mol) were added, followed by stirring at room temperature. The reaction mixture was added with ammonium trifluoroacetate (10.3 g; 0.079 mol) upon an elapsed time of 4 hours and 35 minutes from the initiation of the stirring and then with sodium iodide (11.8 g, 0.079 mol) upon an elapsed time of 8 hours and minutes after the initiation of the Stirring. Stirring was continued at room temperature for 24 hours and 25 minutes in total. The reaction mixture was poured into a mixture of ethyl acetate, and water and the ethyl acetate layer was collected. The water layer was extracted twice with ethyl acetate. Ethyl acetate layers were combined together, successively washed with water and saturated aqueous sodium chloride solution, and then dried over magnesium sulfate. The solvent was then distilled off under reduced pressure, whereby tert-butyl 7-phenylacetamido-3-hydroxymethyl-3-cephem-4-carboxylate-1-oxide was obtained (yield: 63.5 g; 96.1%).

reactant | tert-butyl 7-phenylacetamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide | 0.158 mol, 76.1 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O | C20H23BrN2O5S
reactant | ammonium trifluoroacetate | 0.316 mol, 41.3 g | FC(C(=O)[O-])(F)F.[NH4+]
reactant | sodium iodide | 0.158 mol, 23.6 g | [I-].[Na+]
reactant | ammonium trifluoroacetate | 0.079 mol, 10.3 g | FC(C(=O)[O-])(F)F.[NH4+]
reactant | sodium iodide | 0.079 mol, 11.8 g | [I-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 7-phenylacetamido-3-hydroxymethyl-3-cephem-4-carboxylate-1-oxide | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CO)C(=O)OC(C)(C)C)C1=O | C20H24N2O6S
